US07378420B2
B. Synthesis of 4-Chlorophenyl-1-methylpiperidin-4-yl methanone
To a cold suspension of anhydrous aluminum chloride (20 g, 75 mmol) in chlorobenzene 30 ml at 0° C. was added 1-methylpiperidine-4-carboxylic acid chloride in small portions and the resulted mixture was refluxed for 3 hours. The reaction mixture was cooled down, poured into ice water. The organic phase was discarded. The aqueous solution was washed with 2×50 ml ethyl ether, basified with potassium hydroxide pellet slowly to pH>10 and extracted with ethyl ether 4×50 ml. The combined organic solution was dried over sodium sulfate and concentrated to give 11.2 g of desired product in 85% yield.

reactant | aluminum chloride | 75 mmol, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-methylpiperidine-4-carboxylic acid chloride | CN1CCC(CC1)C(=O)Cl | C7H12ClNO
reactant | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-Chlorophenyl-1-methylpiperidin-4-yl methanone | 11.2 g, 85% yield | ClC1=CC=C(C=C1)C(=O)C1CCN(CC1)C | C13H16ClNO
